US07312236B2
N-(3-(4-Dimethylamino-cyclohex-1-enyl)-2-fluoro-phenyl)-4-fluoro-benzamide hydrochloride salt
Dissolve N-(3-(4-dimethylamino-cyclohex-1-enyl)-2-fluoro-phenyl)-4-fluoro-benzamide (0.115 g) in DCM, add 1N HCl in ethyl ether (0.35 mL), evaporate to give the title compound.

reactant | N-(3-(4-dimethylamino-cyclohex-1-enyl)-2-fluoro-phenyl)-4-fluoro-benzamide | 0.115 g | CN(C1CC=C(CC1)C=1C(=C(C=CC1)NC(C1=CC=C(C=C1)F)=O)F)C | C21H22F2N2O
reactant | HCl | 1N | Cl | ClH
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | ethyl ether | 0.35 mL | C(C)OCC | C4H10O
product | N-(3-(4-Dimethylamino-cyclohex-1-enyl)-2-fluoro-phenyl)-4-fluoro-benzamide hydrochloride salt | Cl.CN(C1CC=C(CC1)C=1C(=C(C=CC1)NC(C1=CC=C(C=C1)F)=O)F)C | InChI=1S/C21H22F2N2O.ClH/c1-25(2)17-12-8-14(9-13-17)18-4-3-5-19(20(18)23)24-21(26)15-6-10-16(22)11-7-15;/h3-8,10-11,17H,9,12-13H2,1-2H3,(H,24,26);1H
